US08372842B2
tert-Butyl 4-(5-cyclopropyl-1-(4-methoxybenzyl)-3-((trimethylsilyl)ethynyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (280 mg, 0.50 mmol) was placed in THF (8 mL) at 0° C. TBAF (0.54 mL, 0.54 mmol) was then added, and the reaction stirred for 30 minutes at room temperature. The reaction was then poured into saturated Na2CO3, and extracted with DCM. The combined organic fractions were dried, filtered, and concentrated to give the crude product, which was purified by column chromatography to give tert-butyl 4-(5-cyclopropyl-3-ethynyl-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (250 mg, 96% yield).

reactant | tert-Butyl 4-(5-cyclopropyl-1-(4-methoxybenzyl)-3-((trimethylsilyl)ethynyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.50 mmol, 280 mg | C1(CC1)C=1C(=C2C(=NC1)N(N=C2C#C[Si](C)(C)C)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C31H41N5O3Si
reactant | TBAF | 0.54 mmol, 0.54 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(5-cyclopropyl-3-ethynyl-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 250 mg, 96% yield | C1(CC1)C=1C(=C2C(=NC1)N(N=C2C#C)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C28H33N5O3
